US04482560
2.4 Grams of 7-hydroxy-4-phenylcarbostyril and 0.8 g of potassium hydroxide were mixed with 60 ml of methanol and concentrated under a reduced pressure to dryness. To the residue thus obtained was added 60 ml of dimethylformamide and well mixed, then 5 g of 1-(3-chloropropyl)-4-phenylpiperidine was added to the mixture and heated at 70°-80° C. for 8 hours under stir ring condition. The reaction mixture was concentrated under a reduced pressure to dryness, and to the residue thus obtained was added 60 ml of 5% sodium hydrogen-carbonate aqueous solution and extracted with chloroform. The chloroform layer was washed with water, dried and the chloroform was removed by distillation. To the residue thus obtained was added 30 ml of methanol and 5 ml of concentrated hydrochloric acid, and concentrated under a reduced pressure. The residue was crystallized with ethanol then recrystallized from methanol to obtain 2.8 g (58%) of 4-phenyl-7-[3-(4-phenyl-1-piperidyl)propoxy]carbostyril monohydrochloride as in the form of colorless needle-like crystals. Melting point: 238°-241° C.

reactant | 7-hydroxy-4-phenylcarbostyril | OC1=CC=C2C(=CC(NC2=C1)=O)C1=CC=CC=C1 | C15H11NO2
reactant | potassium hydroxide | 0.8 g | [OH-].[K+]
reactant | 1-(3-chloropropyl)-4-phenylpiperidine | 5 g | ClCCCN1CCC(CC1)C1=CC=CC=C1 | C14H20ClN
reactant | sodium hydrogen-carbonate | 60 ml | C(O)([O-])=O.[Na+]
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | methanol | 60 ml | CO | CH4O
product | 4-phenyl-7-[3-(4-phenyl-1-piperidyl)propoxy]carbostyril monohydrochloride | 2.8 g, 58% | Cl.C1(=CC=CC=C1)C1=CC(NC2=CC(=CC=C12)OCCCN1CCC(CC1)C1=CC=CC=C1)=O | InChI=1S/C29H30N2O2.ClH/c32-29-21-27(24-10-5-2-6-11-24)26-13-12-25(20-28(26)30-29)33-19-7-16-31-17-14-23(15-18-31)22-8-3-1-4-9-22;/h1-6,8-13,20-21,23H,7,14-19H2,(H,30,32);1H
